US05597823
3-Amino-2-carbomethoxyfuro[2,3-b]pyridine
2-Cyano-3-hydroxypyridine (1.2 g, 10 mmol), prepared as described in Synthesis 316 (1983), was aedded in portions to a 0° C. suspension of NaH (0.4 g of 60% dispersion, 10 mmol) in DMF (5 mL). After stirring for 20 min at 0° C., ethyl bromoacetate was added dropwise. The reaction was stirred for 30 min at 25° C. and was the poured into ice water. The resulting solid was collected by filtration and was washed with a small portion of water. The crude ethyl ester was taken up in EtOAc, dried (MgSO4), filted, and concentrated (1.16 g obtained). To the pyridine (1.0 g, 5.0 mmol) in THF (20 mL) was added potassium t-butoxide (0.56 g, 5.0 mmol). After stirring for 45 min, the reaction was partitioned between EtOAc and NaHCO3 solution. The layers were seperated and the aqueous layer was extracted with EtOAc (2x). The combined organic layers were washed with brine, dried (MgSO4), filtered, and concentrated to provide 0.76 g (76%) of the title compound: 1H NMR (300 MHz, CDCl3) δ1.46 (t, 3H), 4.47 (q, 2H), 5.21 (bs, 2H), 7.38 (dd, 1H), 7.76 (dd, 1H), 8.56 (dd, 1H).

reactant | 2-Cyano-3-hydroxypyridine | 10 mmol, 1.2 g | C(#N)C1=NC=CC=C1O | C6H4N2O
reactant | NaH | 10 mmol, 0.4 g | [H-].[Na+]
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | pyridine | 5.0 mmol, 1.0 g | N1=CC=CC=C1 | C5H5N
reactant | potassium t-butoxide | 5.0 mmol, 0.56 g | CC(C)([O-])C.[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-Amino-2-carbomethoxyfuro[2,3-b]pyridine | 0.76 g, 76% | NC1=C(OC2=NC=CC=C21)C(=O)OC | C9H8N2O3
